US04572805
In 200 ml of carbon tetrachloride, 19.1 g (0.100 mol) of 4-cyano-2,3,5,6-tetrafluorophenol and 13.0 g (0.125 mol) of methacrylic acid chloride were dissolved. To the resultant solution was added 20 g of molecular sieve 3 Å in diameter. The resultant mixture was refluxed as agitated for 48 hours. The reaction mixture so produced was cooled and then filtered to separate the molecular sieve. The filtrate was dried with magnesium sulfate and then evaporated to dryness with a rotary evaporator. Consequently, there was obtained 21.7 g of 4-cyano-2,3,5,6-tetrafluorophenyl methacrylate (yield 83.8% based on 4-cyano-2,3,5,6-tetrafluorophenol, purity 96.5%).

reactant | 4-cyano-2,3,5,6-tetrafluorophenol | 0.100 mol, 19.1 g | C(#N)C1=C(C(=C(C(=C1F)F)O)F)F | C7HF4NO
reactant | methacrylic acid chloride | 0.125 mol, 13.0 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-cyano-2,3,5,6-tetrafluorophenyl methacrylate | 21.7 g, yield 83.8% | C(C(=C)C)(=O)OC1=C(C(=C(C(=C1F)F)C#N)F)F | C11H5F4NO2
